US05637609
N-Formyl-N-(benzocycloheptan-1-yl)ethylamine
1-Ethylamino-benzocycloheptane (1 g, 5.3 mmol) was treated with formic acid (1.22 ml, 32 mmol) and triethylamine (1 ml, 7.2 mmol) and the mixture was heated under reflux for 22 hours under an argon atmosphere. After cooling to room temperature, the mixture was partitioned between diethyl ether (165 ml) and 5% aqueous NaHCO3 (100 ml). The organic layer was separated, dried (Na2SO4) and evaporated to a brown oil (1.06 g, 93%)

reactant | 1-Ethylamino-benzocycloheptane | 5.3 mmol, 1 g | C(C)NC1=CC=CC2=C1CCCCC2 | C13H19N
reactant | formic acid | 32 mmol, 1.22 ml | C(=O)O | CH2O2
reactant | triethylamine | 7.2 mmol, 1 ml | C(C)N(CC)CC | C6H15N
product | N-Formyl-N-(benzocycloheptan-1-yl)ethylamine | C(=O)NCCC1=CC=CC2=C1CCCCC2 | C14H19NO
